US06916850B2
2-Amino-4-[1-(carboxymethyl-carbamoyl)-2-(2-ethoxycarbonyl-2-hydroxyimino-ethylsulfanyl)-ethylcarbamoyl]-butyric acid
Similarly, by following the procedure of Example 30A and substituting 2-amino-4-[1-(carboxymethyl-carbamoyl)-2-(2-ethoxycarbonyl-2-oxo-ethylsulfanyl)-ethylcarbamoyl]-butyric acid with 2-amino-4-[2-(2-butoxycarbonyl-2-oxo-ethylsulfanyl)-1-(carboxymethyl-carbamoyl)-ethylcarbamoyl]-butyric acid and hydroxylamine HCl with another substituted hydroxylamine there are obtained the following compounds:

reactant | 2-amino-4-[2-(2-butoxycarbonyl-2-oxo-ethylsulfanyl)-1-(carboxymethyl-carbamoyl)-ethylcarbamoyl]-butyric acid | NC(C(=O)O)CCC(NC(CSCC(=O)C(=O)OCCCC)C(NCC(=O)O)=O)=O | C17H27N3O9S
reactant | hydroxylamine HCl | Cl.NO
product | 2-Amino-4-[1-(carboxymethyl-carbamoyl)-2-(2-ethoxycarbonyl-2-hydroxyimino-ethylsulfanyl)-ethylcarbamoyl]-butyric acid | NC(C(=O)O)CCC(NC(CSCC(=NO)C(=O)OCC)C(NCC(=O)O)=O)=O | C15H24N4O9S
